US04051153
A mixture of 3.98 g. (0.0174 mole) of (2R,6R)-1-hydroxy-2,6,10-trimethylundecan-4-one, 108 ml. of diethylene glycol, 25 g. of KOH and 43.5 ml. of hydrazine hydrate was stirred and heated until distillation began. Distillation wan then continued until the internal temperature of the reaction mixture reached 195° C. then the mixture was maintained at reflux for 4 hours. After cooling, the resulting mixture was treated with ice and 3 N aqueous HCl and worked-up by ether extraction in the manner of Example 1 giving 2.9 g. of a pale yellow oil. This material was chromatographed on 180 g. of silica gel. Elution with 4:1 parts by volume hexane-ether yielded (2R,6R)-(+)-2,6,10-trimethylundecan-1-ol which was evaporatively distilled affording 2.22 l g. of a colorless oil, b.p. 90- 105° C. (bath temperature (0.2 mm Hg.); [α]25D + 9.44° (c 2.04, hexane).

reactant | (2R,6R)-1-hydroxy-2,6,10-trimethylundecan-4-one | 0.0174 mole | OC[C@@H](CC(C[C@@H](CCCC(C)C)C)=O)C | C14H28O2
reactant | KOH | [OH-].[K+]
reactant | hydrazine hydrate | O.NN
solvent | diethylene glycol | C(COCCO)O | C4H10O3
product | (2R,6R)-(+)-2,6,10-trimethylundecan-1-ol | C[C@@H](CO)CCC[C@@H](CCCC(C)C)C | C14H30O
